US06908935B2
(6,4′-Dimethoxy-biphenyl-3-ylmethyl)-[1-(1-methyl-1H-indol-4-yl)-ethyl]-amine
The title compound was prepared by the same procedure for (6,4′-dimethoxy-biphenyl-3-ylmethyl)-(1-quinolin-4-yl-ethyl)-amine from 1-(1-Methyl-1H-indol-4-yl)-ethylamine (522 mg, 3.0 mmol), 6,4′-Dimethoxy-biphenyl-3-carbaldehyde (242 mg, 1.0 mmol) and sodium cyanoborohydride (1.0 g, 16 mmol, Aldrich). The title compound was purified by column chromatography (silica gel, hexane/ethyl acetate 3/2) in form as white solid in 74% yield (296 mg, 0.74 mmol).

reactant | (6,4′-dimethoxy-biphenyl-3-ylmethyl)-(1-quinolin-4-yl-ethyl)-amine | COC1=CC=C(C=C1C1=CC=C(C=C1)OC)CNC(C)C1=CC=NC2=CC=CC=C12 | C26H26N2O2
reactant | 1-(1-Methyl-1H-indol-4-yl)-ethylamine | 3.0 mmol, 522 mg | CN1C=CC2=C(C=CC=C12)C(C)N | C11H14N2
reactant | 6,4′-Dimethoxy-biphenyl-3-carbaldehyde | 1.0 mmol, 242 mg | COC1=CC=C(C=C1C1=CC=C(C=C1)OC)C=O | C15H14O3
reactant | sodium cyanoborohydride | 16 mmol, 1.0 g | C(#N)[BH3-].[Na+]
product | (6,4′-Dimethoxy-biphenyl-3-ylmethyl)-[1-(1-methyl-1H-indol-4-yl)-ethyl]-amine | 74% yield | COC1=CC=C(C=C1C1=CC=C(C=C1)OC)CNC(C)C1=C2C=CN(C2=CC=C1)C | C26H28N2O2
